US07429665B2
Dimethyl-{2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinolin-4-yl}-amine
To a solution of 4-Chloro-2-[4-(1-methyl4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline (135 mg) in tetrahydrofuran (4 mL) was added dimethylamine (2N in methanol, 0.32 mL), cesium fluoride (5 mg), diisopropyl ethyl amine (62 mg) and tetrabutyl ammonium iodide (12 mg). The reaction mixture was heated in a microwave reactor at 180° C. with 100 W of power for 40 min. The reaction mixture was filtered through celite and concentrated. Purification via MPLC biotage chromatography, eluting with 5% methanol/1% ammonium hydroxide/methylene chloride provided the title compound (36 mg). 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=6.2Hz, 2 H), 8.04 (d, J=8.3 Hz, 1H), 7.99 (d, J=8.3 Hz, 1H), 7.62 (m, 1H), 7.56 (s, 1H), 7.42 (m, 1 H), 7.38 (d, J=9.1 Hz, 2 H), 7.15 (d, J=6.2 Hz, 2H), 7.01 (m, 3H), 5.29 (s, 2H), 3.95 (s, 3 H), 3.03 (s, 6H); MS: (M+H m/z=436.3).

reactant | 4-Chloro-2-[4-(1-methyl4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | 135 mg | ClC1=CC(=NC2=CC=CC=C12)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C25H19ClN4O
reactant | dimethylamine | 2N, 0.32 mL | CNC | C2H7N
reactant | cesium fluoride | 5 mg | [F-].[Cs+]
reactant | diisopropyl ethyl amine | 62 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | tetrabutyl ammonium iodide | 12 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Dimethyl-{2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinolin-4-yl}-amine | 36 mg | CN(C1=CC(=NC2=CC=CC=C12)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C)C | C27H25N5O
